US04012524
2',3'-dichloro-4'-methylthio-2-cyclopentylacrylophenone is prepared following substantially the same procedure described in Example 3, Step B, using the following substances: 2',3'-dichloro-4'-methylthio-2-cyclopentylacetophenone (54.5 g., 0.18 mole), paraformaldehyde (21.6 g., 0.72 mole), concentrated sulfuric acid (9.65 g.) and dioxane (450 ml.).

reactant | 2',3'-dichloro-4'-methylthio-2-cyclopentylacetophenone | 0.18 mole, 54.5 g | ClC1=C(C=CC(=C1Cl)SC)C(CC1CCCC1)=O | C14H16Cl2OS
reactant | paraformaldehyde | 0.72 mole, 21.6 g | C=O | CH2O
reactant | sulfuric acid | 9.65 g | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 450 ml | O1CCOCC1 | C4H8O2
product | 2',3'-dichloro-4'-methylthio-2-cyclopentylacrylophenone | ClC1=C(C=CC(=C1Cl)SC)C(C(=C)C1CCCC1)=O | C15H16Cl2OS
